*SPICE model for MSA1000  
*Start bond wires
.SUBCKT MSA1000 70      20      40
LLB     20      35      .5NH
LLE     40      55      .2NH
*end bond wires
*CALL DIE MODEL
XDIE    70      35      55      MSA10
.ENDS
*end bond wires
* Start die model
.SUBCKT MSA10   DIEOUT  DIEIN   DIEGND
RF      DIEIN   13      120   
RE      Q2E     DIEGND  8.73  
RB      DIEIN   DIEGND  270   
RBIAS   Q1E     DIEGND  25    
RDC     DIEIN   DIEOUT  900   
CF      DIEIN   DIEOUT  0.33PF
CP1     Q1E     DIEOUT  0.52PF
CP2     Q2E     DIEOUT  0.230PF
CP3     DIEGND  DIEOUT  0.790PF
CFBL    14      DIEOUT  80PF
LF      13      14      1.00NH
XA10Q1  DIEOUT  DIEIN   Q1E     A10Q1
XA10Q2  DIEOUT  Q1E     Q2E     A10Q2
.ENDS
* Q1 distributed base model
.SUBCKT A10Q1   Q1C    Q1B     Q1E
RB1     Q1B     11     0.9   
RB2     11      12     1.1   
RB3     12      B1     0.8   
RC      C1      Q1C    2.7   
RE      E1      13     0.7   
RBAL    13      Q1E    1.38  
Q1      C1      B1     E1      QPWR    1440
DCD1    Q1B     C1     DMOD    2354
DCD2    11      C1     DMOD    4760
DCD3    12      C1     DMOD    1224
DCD4    13      C1     DMOD    1717
.ENDS
* Q2 distributed base model
.SUBCKT A10Q2   Q2C    Q2B     Q2E
RB1     Q2B     21     0.7   
RB2     21      22     0.6   
RB3     22      B2     0.4   
RC      C2      Q2C    1.24  
RE      E2      23     0.3   
RBAL    23      Q2E    0.69  
Q1      C2      B2     E2      QPWR    2880
DCD1    Q2B     C2     DMOD    4530
DCD2    21      C2     DMOD    9520
DCD3    22      C2     DMOD    2448
DCD4    23      C2     DMOD    1717
.ENDS
.MODEL  DMOD    D(IS=1E-25, CJO=2.45E-16, VJ=.76, M=.53, BV=45, IBV=1E-9)
.MODEL  QPWR    NPN (BF=75, BR=5, IS=1.65E-18, VA=30, TF=14PS,
+               CJE=1.8E-15, VJE=1.01, MJE=0.6, PTF=50, XTB=1.818,
+               VTF=6, ITF=3E-4, IKF=1.0E-4, XTF=4, NF=1.03, ISE=5E-15,
+               NE=2.5)